US07902381B2
Step 2: Methyl (2S)-3-[(2-methoxyphenyl)sulfanyl]-2-methylpropanoate (7a-1)
In a round-bottom flask maintained under an inert atmosphere, 4.72 mL (38.8 mmoles) of 2-methoxythiophenol, 10.72 g (77.6 mmoles) of potassium carbonate, 5.13 g of diluted methyl (2R)-2-methyl-3-[(methylsulfonyl)oxy]propanoate (6a-1) and 100 mL of anhydrous THF then 329 mg (0.97 mmole) of tetrabutylammonium hydrogen sulfate are introduced. The reaction medium is brought to 60° C. for 24 h under vigorous stirring then concentrated under reduced pressure. The residue is taken up with water and is extracted with ethylic ether. The combined organic phases are washed with a 1 N soda solution, water, brine, then dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue is taken up in methanol and concentrated then taken up again in methanol (10 mL/1 g of residue). The bis(methoxyphenyl) disulfide [13920-94-0] that slowly precipitates is eliminated by filtration. The filtrate is evaporated under reduced pressure to yield the title compound in the form of a pale yellow oil (6.4 g, 26.6 mmoles).

reactant | 2-methoxythiophenol | 38.8 mmoles, 4.72 mL | COC1=C(C=CC=C1)S | C7H8OS
reactant | potassium carbonate | 77.6 mmoles, 10.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl (2R)-2-methyl-3-[(methylsulfonyl)oxy]propanoate | 5.13 g | C[C@@H](C(=O)OC)COS(=O)(=O)C | C6H12O5S
catalyst | tetrabutylammonium hydrogen sulfate | 0.97 mmole, 329 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Methyl (2S)-3-[(2-methoxyphenyl)sulfanyl]-2-methylpropanoate | COC1=C(C=CC=C1)SC[C@H](C(=O)OC)C | C12H16O3S
